US07517996B2
(Step A-2) Synthesis of 4-methylbenzaldehyde oxime
4-Methylbenzaldehyde (20 g, 166 mmol), hydroxylamine hydrochloride (12.7 g, 183 mmol), and sodium acetate (23.1 g, 282 mmol) were dissolved in a mixed solvent of ethanol (400 ml) and water (150 ml), and the mixture was stirred at 80° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (20.6 g, 152 mmol, 91.8%).

reactant | 4-Methylbenzaldehyde | 166 mmol, 20 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | hydroxylamine hydrochloride | 183 mmol, 12.7 g | Cl.NO
reactant | sodium acetate | 282 mmol, 23.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 4-methylbenzaldehyde oxime | 152 mmol, 20.6 g, 91.8% | CC1=CC=C(C=NO)C=C1 | C8H9NO
